Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
"I did something really stupid I shouldn't have
done." 

 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
As per initial consultation note by Dr. ___ on ___, 
___ is a ___ year old ___ student with no known past
psychiatric history who was brought to the ED after taking 40
tablets of 25 mg Unisom at 9 ___. Excerpted from Dr. ___, "Per ED notes, the patient's roommate called EMS and she
was found on the ___ bridge. On interview, the patient was
inattentive and seemed to have trouble comprehending many of the
questions. When asked why she took the pills she said that
"there's no point to everything". When asked to say more about
why she felt that way, she reported that she was stressed 
because
she had gotten B-grades in school and had wanted to do better.
Her boyfriend also recently told her that he didn't want to do a
long distance relationship as he is graduating soon and she
isn't. She denied feeling depressed and symptoms of depression,
however, she reported that she had been thinking about 
overdosing
for a while. She was unable to say how long she had been 
thinking
about it or why she picked to take Unisom. When asked how she
felt about the overdose now she said that she had "learned my
lesson". However, she did attempt to cut her wrist in ___
and did not receive any treatment or help at that time.  She was
willing to give phone numbers for collateral, however she could
not locate her phone to retrieve numbers. She reports that her
roommate and best friend know what is going on and are
supportive. She does not have any outpatient providers.      
 
Patient denied symptoms of depression including changes in 
sleep,
appetite, concentration, anhedonia and low energy.  She has been
thinking about suicide however.  She struggled with some of the
other review of system questions but denied paranoia, AVH and
delusions."

On admission, patient refused to sign CV, denied any safety
concerns, and refused the offering of medications.   

 
Past Medical History:
PAST PSYCHIATRIC HISTORY:  
  - Prior diagnoses: none
  - Hospitalizations: none
  - Current treaters and treatment: none
  - Medication and ECT trials: none
  - Suicide attempts: denies
  - Self-injurious behavior: denies
  - Harm to others: denies
  - Access to weapons: denies
 
PAST MEDICAL HISTORY:
Denies

HOME MEDICATIONS:
None
 
ALLERGIES: 
None 

 
Social History:
SUBSTANCE ABUSE HISTORY:
  - Alcohol: drinks once or twice a month 
  - Tobacco: has smoked cigarettes 4 times total
  - Other substances and IVDU: occasional marijuana use

FORENSIC HISTORY:
___
SOCIAL HISTORY:
___
Family History:
FAMILY PSYCHIATRIC HISTORY:
Denies
 
Physical Exam:
EXAM: 
  VS: T 97.5, BP 106/75, HR 91, RR 18, O2 sat 95%  

MSE: 
   AAOx3
   Appearance: Age appearing young Caucasian woman, hair dyed
pink/purple, no apparent distress, appears stated age, fair
hygiene 
  Behavior: Calm, cooperative, appropriate eye contact, no
psychomotor agitation or retardation
   Mood and Affect: "I'm okay" / Affect: euthymic, at times
annoyed with interviewer
   Thought process: Linear, mostly coherent, perseverative on
staying involuntarily until she can leave
   Thought Content: Denies SI currently, denies AVH
   Judgment and Insight: poor/poor

Physical Examination: 
GEN: NAD
HEENT: NC/AT, EOMI, PERRLA
Neck: Supple, trachea midline
CV: RRR no M/R/G, 2+ DP
Pulm: CTAB no w/r/r
Abd: S/NT/ND, +BS in all 4 quadrants
Ext/Neur: CN ___ intact, MAEW, no focal deficits

 
Pertinent Results:
___ 06:43AM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 06:43AM URINE  BLOOD-MOD NITRITE-NEG PROTEIN-TR 
GLUCOSE-NEG KETONE-10 BILIRUBIN-NEG UROBILNGN-NEG PH-5.5 
LEUK-NEG
___ 06:43AM URINE  RBC-14* WBC-1 BACTERIA-FEW YEAST-NONE 
EPI-<1
___ 06:43AM URINE  HYALINE-7*
___ 06:43AM URINE  MUCOUS-RARE
___ 02:00AM URINE  UCG-NEGATIVE
___ 02:00AM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG oxycodn-NEG mthdone-NEG
___ 01:25AM   GLUCOSE-92 UREA N-7 CREAT-0.9 SODIUM-141 
POTASSIUM-3.0* CHLORIDE-107 TOTAL CO2-20* ANION GAP-17
___ 01:25AM   estGFR-Using this
___ 01:25AM   TSH-1.5
___ 01:25AM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 01:25AM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 01:25AM   WBC-19.6* RBC-4.35 HGB-12.9 HCT-36.5 MCV-84 
MCH-29.7 MCHC-35.3 RDW-11.9 RDWSD-35.6
___ 01:25AM   NEUTS-91.9* LYMPHS-3.1* MONOS-4.0* EOS-0.0* 
BASOS-0.2 IM ___ AbsNeut-18.06* AbsLymp-0.61* AbsMono-0.78 
AbsEos-0.00* AbsBaso-0.03
___ 01:25AM   PLT COUNT-222
 
Brief Hospital Course:
#. Legal/Safety: Patient admitted to ___ on a ___
and refused to sign a CV.  As she consistently denied suicidal 
ideation or thoughts of self harm she was appropriate for 15 
minute checks and monitored access to sharps. Given recent 
suicide attempt and desire to be discharged,
she was deemed inappropriate for fresh air groups and
restricted to unit. 

#. Mood disorder: 
This is a ___ year old single woman,
currently a sophomore student at ___, no formal psychiatric
history, unremarkable past medical history, who presented to
___ via EMS s/p overdose on 40 tablets of 25 mg of Unisom in
the setting of worsening depression. 

Initial interview was concerning for history of affective 
instability with
reactive mood, with mood swings occurring within a single day,
history of self-injurious behaviors, and apparent difficulty 
with
interpersonal relationships.  Of note, patient on admission 
denied depressed mood and neurovegetative symptoms that would be
consistent with a major depressive episode.  Mental status
examination was notable for a adequately groomed woman who 
appeared
slightly anxious, with reluctance to participate fully in the
interview.  Affect was superficially euthymic, and thought 
process was notably
linear and goal and future oriented.

Diagnostically, the history and examination is concerning for
emerging character pathology given her history of self-injurious
behaviors, mood swings within a day, difficulty with
interpersonal relationships, and limited insight and judgment. 
Would clearly keep Major depressive disorder without psychotic
features on the differential, although she did not appear
dysthymic or dysphoric on examination.  There is no history
consistent with mania, making bipolar disorder less likely. 
However, given her young age and affective instability would
certainly keep this on the differential as well.  Of note,
there was nothing in her history to suggest a prior psychotic 
episode that
would be concerning for schizophrenia/schizoaffective. She does
admit to a history of occasional alcohol and cannabis use,
however, given sporadic use and negative tox screen, substance
use was thought less likely to be contributing to her clinical
presentation. 

We encouraged group participation but the patient routinely 
refused invitations to attend.  On interview with her treatment 
team she was consistently noted to be guarded and reluctant to 
divulge information.  She declined to allow her providers to 
contact her mother afraid that her mother would withdraw her 
from school prohibiting collateral or family meeting. After 
discussing the risks and benefits of antidepressants the patient 
agreed to trial Zoloft 25 mg daily, which she tolerated without 
side effects.  She did comply with her medications and 
maintained both safety and behavioral control while on the unit. 
 She was discharged to school on ___ with psychiatric follow-up 
and therapy appointments.  She denied interest in participating 
in a partial hospitalization.

#. Leukocytosis:
WBC 19.6k following her overdose.  No signs or symptoms of 
infection, afebrile.  Repeat CBC with WBC 6k.  Resolved.  Other 
routine labs wnl.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1.  Sertraline 25 mg PO DAILY 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Mood disorder unspecified

 
Discharge Condition:
VS: T 97.3 PO; BP 103 / 71; HR 107; RR 16; SpO2 98% 

Appearance/Behavior- Young female wearing a sweatshirt and 
pajama pants with fading pink hair and multiple ear piercings / 
Laughs frequently, sitting cross-legged in her chair with her 
hands in her pockets
Speech- Fluent ___, normal rate, volume, prosody
Mood/Affect- 'Good' / no irritability, no angry outbursts, 
brighter
Thought process- Linear, reality oriented, goal directed
Thought content- Denies SI/HI/AVH
Insight/Judgment- Fair/Fair

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___